datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25],-12.9704
[C:0]([C:1](=[C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])[c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])([H:16])([H:17])[H:18].[C:32]([C:33]([C:34]([H:39])([H:40])[H:41])[H:38])([H:35])([H:36])[H:37]>>[C:0]([C:1]([C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])([c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])[C:33]([C:32]([H:35])([H:36])[H:37])([C:34]([H:39])([H:40])[H:41])[H:38])([H:16])([H:17])[H:18],27.0286
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([C:7](=[C:8]([C:9]([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])[H:22])[H:21])([H:19])[H:20])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([H:19])([H:20])[C:7]([H:21])=[C:8]([H:22])[C:9]1([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])[H:12],111.085
[O:0]=[N+:1][O-:2].[O:3][H:4]>>[O:0]=[N+:1]([O-:2])[O:3][H:4],0.0
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:20])([H:21])[H:22])[c:11]1[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]1[H:27])([H:17])([H:18])[H:19]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:9]([C:8]([H:17])([H:18])[H:19])([C:10]([H:20])([H:21])[H:22])[c:11]1[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]1[H:27],27.9491
[H:4].[N:0](=[C:1]=[O:2])[H:3]>>[H:3][H:4].[N:0]=[C:1]=[O:2],41.5053
[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]1[H:15])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]1[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]1[H:15])[H:9])([H:7])[H:8],103.3448
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:14]([C:13]([H:16])([H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])([H:5])[H:6],28.6186
[O:0]=[C:1]([O:2][C:3]([O:4][O:5][H:9])([H:7])[H:8])[H:6]>>[O:0]=[C:1]([O:2][C:3]([O:4])([H:7])[H:8])[H:6].[O:5][H:9],179.912
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[C:16]([H:18])[H:19])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:15](=[C:16]([H:18])[H:19])[H:17],-10.0416
[C:0]([H:1])([H:2])([H:3])[H:4].[I:5]>>[C:0]([H:2])([H:3])[H:4].[H:1][I:5],135.9
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:24]([H:25])([H:26])[H:27])[H:14])([H:12])[H:13],28.5767
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[O:15][O:16][H:17]>>[C:0]([c:1]1[c:2]([H:10])[c:3][c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:11][O:15][O:16][H:17],60.8454016
[C:1](=[C:2]([C:3]([C:4]([c:5]1[c:7]([H:8])[c:9]([H:10])[c:11]([H:12])[c:13]2[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21][c:22]12)([H:24])[H:25])([H:26])[H:27])[H:28])([H:29])[H:30]>>[C:1]([C:2]1([H:28])[C:3]([H:26])([H:27])[C:4]([H:24])([H:25])[c:5]2[c:7]([H:8])[c:9]([H:10])[c:11]([H:12])[c:13]3[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[c:22]23)([H:29])[H:30],125.52
[C:4]([C:5]([C:6]([H:11])([H:12])[H:13])([C:7]([H:14])([H:15])[H:16])[O:8][H:17])([H:9])[H:10].[O:0]([O:1][H:3])[H:2]>>[H:2][C:4]([C:5]([C:6]([H:11])([H:12])[H:13])([C:7]([H:14])([H:15])[H:16])[O:8][H:17])([H:9])[H:10].[O:0][O:1][H:3],6.52704
[C:0](#[C:1][C:2]1([H:8])[C:3]=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11])[H:7]>>[C:0](#[C:1][C:2](=[C:3]=[C:4]([C:5](=[C:6][H:11])[H:10])[H:9])[H:8])[H:7],154.47328
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][H:28]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])[H:13])([H:9])([H:10])[H:11].[H:12][O:27][H:28],-4.535456
